US05589467
9-(2',3'-Di-O-acetyl-5'-O-methyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (1.3 g, 3.1 mmol), (S)-N-amino-2-(methoxymethyl)pyrrolidine (0.81 g, 6.2 mmol) and triethylamine (0.63 g, 6.2 mmol) were dissolved in dioxan. After stirring for 20 h the reaction mixture was diluted with dichloromethane (150 ml) and washed with water (2×75 ml). The organic phase was dried (MgSO4) and concentrated in vacuo. The resultant residue was purified by flash chromatography eluting with a mixture of dichloromethane and 10% ammonia in ethanol (97:3) to afford (S)-2',3'-di-O-acetyl-2-chloro-5'-O-methyl-N-[2-(methylmethoxy)-1-pyrrolidinyl]adenosine (0.28 g, 18%) as a foam. 1H-NMR (400 MHz, CDCl3) δ1.70-2.10 (4H, m, pyrrolidine C--H), 2.05 (3H, s, --OCOCH3), 2.18 (3H, S, --OCOCH3), 2.85 (1H, m, pyrrolidine C--H), 3.10 (1H, br, pyrrolidine C--H), 3.22 (3H, s, --OCH3), 3.35-3.70 (8H, m, H-5'a and H-5'b, --OCH3, pyrrolidine, --CH2 --), 4.32 (1H, s, H-4'), 5.55 (1H, d, H-3'), 5.75 (1H, t, H-3'), 6.32 (1H, d, H-1'), 8.17 (1H, s, H-8). HPLC retention time 15.57 min. (gradient elution over 25 min.; 20-80% acetonitrile/0.1% TFA in water).

reactant | 9-(2',3'-Di-O-acetyl-5'-O-methyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 3.1 mmol, 1.3 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C15H16Cl2N4O6
reactant | (S)-N-amino-2-(methoxymethyl)pyrrolidine | 6.2 mmol, 0.81 g | NN1[C@@H](CCC1)COC | C6H14N2O
reactant | triethylamine | 6.2 mmol, 0.63 g | C(C)N(CC)CC | C6H15N
reactant | dioxan | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | (S)-2',3'-di-O-acetyl-2-chloro-5'-O-methyl-N-[2-(methylmethoxy)-1-pyrrolidinyl]adenosine | 0.28 g, 18% | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]1OC(C)=O)COC)N1C=NC=2C(NN3C(CCC3)OCC)=NC(=NC12)Cl | C21H29ClN6O7
